US06555577B1
To a solution of (3,5-diphenethyl-phenyl)-methanol (2.0 g, 6.4 mmol) in dry dichloromethane (30 mL) was added pyridinium chlorochromate (1.4 g, 6.4 mmol) and the mixture was stirred at room temperature for 16 h. The product was purified by flash chromatography using dichloromethane as solvent to give 1.3 g 3,5-diphenethyl-benzaldehyde.

reactant | (3,5-diphenethyl-phenyl)-methanol | 6.4 mmol, 2.0 g | C(CC1=CC=CC=C1)C=1C=C(C=C(C1)CCC1=CC=CC=C1)CO | C23H24O
reactant | pyridinium chlorochromate | 6.4 mmol, 1.4 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 3,5-diphenethyl-benzaldehyde | 1.3 g | C(CC1=CC=CC=C1)C=1C=C(C=O)C=C(C1)CCC1=CC=CC=C1 | C23H22O
